US07456164B2
4,4-difluoro-1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetra-hydropyran-4-ylmethyl}piperidine
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (260 mg, 0.82 mmol), 4,4-difluoropiperidine hydrochloride (323 mg, 2.05 mmol), absolute ethanol (11 mL), activated 4 Å molecular sieves, titanium (IV) isopropoxide (1.209 mL, 4.09 mmol) and STAB (1.475 g, 6.96 mmol) were reacted in accordance with the general procedure D. The isolated waxy solid was purified by reverse phase preparative HPLC on a Xterra column eluting with a gradient of MeCN:H2O:Et3N (from 29.9:70:0.1 to 94.9:5:0.1 in 13 min) to give the title compound (26 mg, 6%). 1H NMR (400 MHz, CDCl3) δ 7.21 (d, 2H), 6.88 (d, 2H), 4.02 (t, 2H), 3.77-3.73 (m, 2H), 3.53-3.47 (t, 2H), 2.64 (t, 2H), 2.54 (m, 4H), 2.39 (s, 2H), 2.30-2.24 (m, 6H), 2.13 (d, 2H), 2.02 (m, 2H), 1.90-1.71 (m, 6H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 0.82 mmol, 260 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | 4,4-difluoropiperidine hydrochloride | 2.05 mmol, 323 mg | Cl.FC1(CCNCC1)F
catalyst | titanium (IV) isopropoxide | 4.09 mmol, 1.209 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | 4,4-difluoro-1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetra-hydropyran-4-ylmethyl}piperidine | 26 mg, 6% | FC1(CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)F | C24H36F2N2O2
